US06787536B2
2-(R)-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid
Hydrogen peroxide (0.37 ml, 27.5 wt % in water) was added to an ice-cold solution of 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one (0.67 g) in tetrahydrofuran (5 ml), followed by the dropwise addition of a solution of lithium hydroxide monohydrate (61 mg) in water (2.5 ml), and the mixture stirred in the ice-bath, allowing to slowly warm to ambient temperature. After 4 h, the mixture was re-cooled in ice, treated with sodium sulfite (0.68 g) as a solution in water (15 ml), and stirred for 10 min. The mixture was then reduced in vacuo and the residue diluted with 1 M sodium hydroxide (10 ml) and washed with ethyl acetate (2×30 ml). The combined organic washes were back-extracted with 1M sodium hydroxide (2×10 ml), and the combined aqueous phase was acidified with citric acid to pH 3-4. The resultant suspension was filtered, and the solids washed with water and dried under vacuum at 40° C. to yield the title compound as a white solid (0.36 g, 74%).

reactant | Hydrogen peroxide | 0.37 ml | OO | H2O2
reactant | 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one | 0.67 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F)=O | C30H34FN5O5S
reactant | lithium hydroxide monohydrate | 61 mg | O.[OH-].[Li+]
reactant | sodium sulfite | 0.68 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 2.5 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
product | 2-(R)-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid | 0.36 g, 74% | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C20H25FN4O4S
